US06403586B1
Preparation of 2-(4-Chlorocinnamyl)-4-ethoxycarbonyl-6-(4-methoxyphenyl)-2H-pyridazin-3-one
Using 4-ethoxycarbonyl-6-(4-methoxyphenyl)-2H-pyridazin-3-one and 4-chlorocinnamyl chloride as starting materials, the procedures of Example 1 were repeated likewise, whereby the title compound was obtained in a yield of 85.7%.

reactant | 4-ethoxycarbonyl-6-(4-methoxyphenyl)-2H-pyridazin-3-one | C(C)OC(=O)C=1C(NN=C(C1)C1=CC=C(C=C1)OC)=O | C14H14N2O4
reactant | 4-chlorocinnamyl chloride | ClC1=CC=C(C=CCCl)C=C1 | C9H8Cl2
product | 2-(4-Chlorocinnamyl)-4-ethoxycarbonyl-6-(4-methoxyphenyl)-2H-pyridazin-3-one | yield of 85.7% | ClC1=CC=C(C=CCN2N=C(C=C(C2=O)C(=O)OCC)C2=CC=C(C=C2)OC)C=C1 | C23H21ClN2O4
